US06703392B2
2-[1-(2,5-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(4-methoxy-benzyl)-acetamide:
prepared by reaction of 1-(2,5-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 4-methoxybenzylamine

reactant | 1-(2,5-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC1=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=C(C=C1)OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | 2-[1-(2,5-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(4-methoxy-benzyl)-acetamide | COC1=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=C(C=C2)OC)C=C(C=C1)OC | C30H36N2O6
